US07320977B2
2-(4-Chlorophenyl)-5-(1H-imidazol-1-yl)-4-[4-(4-pyridinyl)phenoxy]-3(2H)-pyridazinone
1.5 mmol of 4-(4-bromophenyl)oxy-2-(4-chlorophenyl)-5-(1H-imidazol-1-yl)-3(2H)-pyridazinone, 2.1 mmol of 4-trimethylstannylpyridine, 0.1 mmol of bis(triphenyl-phosphine)palladium dichloride and 1.3 mmol of ethyldiisopropylamine in 5 ml of dimethylformamide are heated at 100° C. for 5 hours. The solvent is removed in a rotary evaporator, and the residue is purified by chromatography on silica gel (elution with ethyl, acetate/methanol mixtures). 0.3 g (45% of theory) is obtained of m.p. 188° C.

reactant | 4-(4-bromophenyl)oxy-2-(4-chlorophenyl)-5-(1H-imidazol-1-yl)-3(2H)-pyridazinone | 1.5 mmol | BrC1=CC=C(C=C1)OC=1C(N(N=CC1N1C=NC=C1)C1=CC=C(C=C1)Cl)=O | C19H12BrClN4O2
reactant | 4-trimethylstannylpyridine | 2.1 mmol | C[Sn](C1=CC=NC=C1)(C)C
reactant | ethyldiisopropylamine | 1.3 mmol | C(C)N(C(C)C)C(C)C | C8H19N
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
catalyst | bis(triphenyl-phosphine)palladium dichloride | 0.1 mmol | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 2-(4-Chlorophenyl)-5-(1H-imidazol-1-yl)-4-[4-(4-pyridinyl)phenoxy]-3(2H)-pyridazinone | ClC1=CC=C(C=C1)N1N=CC(=C(C1=O)OC1=CC=C(C=C1)C1=CC=NC=C1)N1C=NC=C1 | C24H16ClN5O2
